US06444694B1
(E)-2-[2-(3,4-Dimethoxyphenyl)-vinyl]-1H-benzoimidazole-5-carboxylic acid methyl ester
A mixture of 1,2-diamino-4-methylcarboxybenzene (3.6 g; 20 mmol) and methyl-(3,4-dimethoxy)-cinnamoimidate hydrochloride (5.4 g; 20 mmol) in methanol (150 mL) was stirred at ambient temperature for 48 hours. Solution was concentrated to dryness. The residue was recrystallized from MeOH to obtain 3.8 g (56% yield) of the title compound as yellow solid, m.p. 185-188° C. Anal. Calcd. for C19H18N2O4: C, 67.45, H, 5.36; N, 8.28. Found: C, 67.25; H, 5.45; N, 8.28. Mass Spectrum: (EI; M+) m/z 338. 1H-NMR (DMSO-d6; 400 MHz) δ12.9 (broad s, 1H), 8.1 (s, 1H), 7.63-7.69 (d, 1H), 7.57-7.62 (d, 1H), 7.33 (d, 1H), 7.17-7.21 (dd 1H), 7.14-7.19 (d, 1H), 7.08-7.12 (d, 1H), 3.86 (s, 3H), 3.84 (s, 3H), 3.79 ppm (s, 3H)

reactant | 1,2-diamino-4-methylcarboxybenzene | 20 mmol, 3.6 g | NC1=C(C(=C(C=C1)C)C(=O)O)N | C8H10N2O2
reactant | methyl-(3,4-dimethoxy)-cinnamoimidate hydrochloride | 20 mmol, 5.4 g | Cl.COC(C=CC1=CC(=C(C=C1)OC)OC)=N
reactant | methanol | 150 mL | CO | CH4O
product | (E)-2-[2-(3,4-Dimethoxyphenyl)-vinyl]-1H-benzoimidazole-5-carboxylic acid methyl ester | 3.8 g, 56% yield | COC(=O)C1=CC2=C(NC(=N2)\C=C\C2=CC(=C(C=C2)OC)OC)C=C1 | C19H18N2O4
